US07612114B2
2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-1-methyl-1H-indol-6-ol
Synthesized from 5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine and 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine according to an analogous synthetic method to Example 116, [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine (60 mg) was used according to an analogous synthetic method to Example 364 described below to provide the title compound (25 mg).

reactant | 5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C=1N(C2=CC(=CC=C2C1)OC)C | C17H18N2O2
reactant | 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine | BrC1=CC(=C(OCCN2CCCCC2)C=C1)F | C13H17BrFNO
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl][5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine | 60 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)OC)C=1N(C2=CC(=CC=C2C1)OC)C | C30H34FN3O3
product | 2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]-4-hydroxyphenyl}-1-methyl-1H-indol-6-ol | 25 mg | FC=1C=C(C=CC1OCCN1CCCCC1)NC1=C(C=CC(=C1)O)C=1N(C2=CC(=CC=C2C1)O)C | C28H30FN3O3
